US07064139B2
Preparation of 2-(1-Phenylethylsulfinyl)pyridine N-oxide (Compound 102)
To a mixture of 23.2 g (0.1 mole) of 2-(1-phenylethylthio)pyridine N-oxide, 0.2 g of sodium tungstate, and 60 ml of glacial acetic acid were added 10 ml (0.1 mole) of 30% hydrogen peroxide over approximately 0.5 hours. The mixture exothermed somewhat to about 65° C. After completion of the reaction, the reaction mixture was poured slowly into 800 ml of vigorously stirred cold water. A solid separated out and was filtered off and washed with 15 ml of cold ethanol. The solid was air dried, melting point 130–130.5° C. Yield 14.5 g or 59%. An infrared spectrum confirmed the structure.

reactant | 2-(1-phenylethylthio)pyridine N-oxide | 0.1 mole, 23.2 g | C1(=CC=CC=C1)C(C)SC1=[N+](C=CC=C1)[O-] | C13H13NOS
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 0.1 mole, 10 ml | OO | H2O2
catalyst | sodium tungstate | 0.2 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 2-(1-Phenylethylsulfinyl)pyridine N-oxide | C1(=CC=CC=C1)C(C)S(=O)C1=[N+](C=CC=C1)[O-] | C13H13NO2S
